US07129238B2
To a solution under Ar of (RS)-3-[(4-cyano-benzylcarbamoyl)-methoxy-methyl]-2,4-difluoro-benzoic acid (150 mg) in DMF (2 ml) was added 1,1′-carbonyldiimidazole (74 mg). The reaction mixture was stirred 15 min at rt before addition of morpholine. After stirring 2 h at rt hydroxylamine hydrochloride (289 mg) and Et3N (0.3 ml) were added. The reaction mixture was stirred 20 h at rt, then it was poured on H2O (20 ml) and extracted with AcOEt (2×20 ml). The organic layers were washed with brine and dried (Na2SO4) and the solvent was evaporated. CC (AcOEt/MeOH 99:1 to 9:1) yielded 111 mg (58%) of (RS)-2-[2,6-difluoro-3-(morpholine-4-carbonyl)-phenyl]-N-[4-(N-hydroxycarbamimidoyl)-benzyl]-2-methoxy-acetamide. White solid. MS 463.5 ([M+H]+).

reactant | (RS)-3-[(4-cyano-benzylcarbamoyl)-methoxy-methyl]-2,4-difluoro-benzoic acid | 150 mg | C(#N)C1=CC=C(CNC(=O)C(C=2C(=C(C(=O)O)C=CC2F)F)OC)C=C1 | C18H14F2N2O4
reactant | 1,1′-carbonyldiimidazole | 74 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | hydroxylamine hydrochloride | 289 mg | Cl.NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | Et3N | 0.3 ml | CCN(CC)CC | C6H15N
product | (RS)-2-[2,6-difluoro-3-(morpholine-4-carbonyl)-phenyl]-N-[4-(N-hydroxycarbamimidoyl)-benzyl]-2-methoxy-acetamide | 111 mg, 58% | FC1=C(C(=CC=C1C(=O)N1CCOCC1)F)C(C(=O)NCC1=CC=C(C=C1)C(NO)=N)OC | C22H24F2N4O5
